US08975254B2
e) N-(2-(3-(4-Cyano-3-nitrophenyl)-1H-pyrazol-1-yl)ethyl)-3-(1-(hydroxyimino)ethyl)-1H-pyrazole-5-carboxamide
5-Acetyl-N-(2-(3-(4-cyano-3-nitrophenyl)-1H-pyrazol-1-yl)ethyl)-1H-pyrazole-3-carboxamide (0.17 g, 0.43 mmol) was dissolved in ethanol (15 ml). Sodium acetate (0.071 g, 0.86 mmol) and hydroxylamine hydrochloride (0.060 g, 0.86 mmol) was added and the reaction mixture was stirred at RT for 1.5 h. After addition of pyridine (5 ml) stirring was continued for 65 h. The reaction mixture was evaporated to dryness, co-evaporated two times with toluene and dissolved the residue in ethyl acetate. It was then washed two times with water, dried with Na2SO4 and purified with CombiFlash using DCM and methanol as eluents affording 0.034 g of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 2.11-2.15 (m, 3H), 3.68-3.71 (m, 2H), 4.39 (t, 2H), 7.05-7.06 (m, 1H), 7.88 (d, 1H), 8.17-8.20 (m, 1H), 8.32-8-35 (m, 1H), 8.68 (d, 1H).

reactant | 5-Acetyl-N-(2-(3-(4-cyano-3-nitrophenyl)-1H-pyrazol-1-yl)ethyl)-1H-pyrazole-3-carboxamide | 0.43 mmol, 0.17 g | C(C)(=O)C1=CC(=NN1)C(=O)NCCN1N=C(C=C1)C1=CC(=C(C=C1)C#N)[N+](=O)[O-] | C18H15N7O4
reactant | Sodium acetate | 0.86 mmol, 0.071 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 0.86 mmol, 0.060 g | Cl.NO
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | N-(2-(3-(4-Cyano-3-nitrophenyl)-1H-pyrazol-1-yl)ethyl)-3-(1-(hydroxyimino)ethyl)-1H-pyrazole-5-carboxamide | 0.034 g | C(#N)C1=C(C=C(C=C1)C1=NN(C=C1)CCNC(=O)C1=CC(=NN1)C(C)=NO)[N+](=O)[O-] | C18H16N8O4
